US04010184
To 50 ml of 25%(W/V) tetrahydrofuran solution of dimethylamine is added 7.1 g of 1-chlorocarbonyl-7-ethyl-5-phenyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride by portions with cooling and stirring, and stirred at room temperature for 2 hours. The reaction mixtureis transferred to water and extracted with ethyl acetate. The organic layer is washed with water and dried over anhydrous magnesium sulfate. The solvent is evaporated under reduced pressure, and the residue is treated with ethanolic hydrogen chloride to give 7-ethyl-1-dimethylcarbamoyl-5-phenyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloric as yellow crystals, melting at 237°-238° C with decomposition.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | dimethylamine | CNC | C2H7N
reactant | 1-chlorocarbonyl-7-ethyl-5-phenyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride | 7.1 g | Cl.ClC(=O)N1CCN=C(C2=C1SC(=C2)CC)C2=CC=CC=C2
solvent | water | O | H2O
product | 7-ethyl-1-dimethylcarbamoyl-5-phenyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine | C(C)C1=CC2=C(N(CCN=C2C2=CC=CC=C2)C(N(C)C)=O)S1 | C18H21N3OS
